US06350749B1
A mixture of 5-(2-chloro-5-methylphenyl)-1-[2-(4-methylphenylsulfonyl)hydrazino]cyclohexen-3-one (2.03 g), anhydrous potassium carbonate (1.73 g) and methanol (20 ml) was stirred at room temperature for 30 minutes, and to the mixture were added 1,2-dimethoxyethane (10 ml) and bromoacetone (0.891 g). The mixture was stirred at 80° C. for 4.5 hours. Under reduced pressure, the solvent was evaporated, and to the residue were added ethyl acetate (200 ml) and water (30 ml). The mixture was shaken, and the separated upper layer was washed with water and concentrated under reduced pressure. The residue was purified with silica gel column chromatography to give 7-(2-chloro-5-methylphenyl)-4-methyl-5,6,7,8-tetrahydrocinnolin,-5-one (0.804 g) as brown crystals.

reactant | 5-(2-chloro-5-methylphenyl)-1-[2-(4-methylphenylsulfonyl)hydrazino]cyclohexen-3-one | 2.03 g | ClC1=C(C=C(C=C1)C)C1CC(C=C(C1)NNS(=O)(=O)C1=CC=C(C=C1)C)=O | C20H21ClN2O3S
reactant | potassium carbonate | 1.73 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 20 ml | CO | CH4O
reactant | bromoacetone | 0.891 g | BrCC(C)=O | C3H5BrO
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
product | 7-(2-chloro-5-methylphenyl)-4-methyl-5,6,7,8-tetrahydrocinnolin | ClC1=C(C=C(C=C1)C)C1CCC=2C(=CN=NC2C1)C | C16H17ClN2
